US08466114B2
To a stirred solution of acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(4-ethoxy-benzyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester (4.0 g, 6.93 mmol) prepared using the procedures described in J. Med. Chem. 2008, 51(5), 1145-49, in dichloromethane (40 mL) was added 1 molar solution of BBr3 (34.6 mL, 34.6 mmol) at −78° C. under nitrogen atmosphere. Reaction was stirred at −78° C. for 1.5 h and −30° C. for 1 h. Reaction mixture was poured over ice and neutralized with sat. NaHCO3 (20 mL), extracted with dichloromethane, concentrated and purified by silica gel column chromatography to furnish acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(4-hydroxy-benzyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester (2.9 g).

reactant | acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(4-ethoxy-benzyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester | 6.93 mmol, 4.0 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OCC)COC(C)=O | C29H33ClO10
reactant | BBr3 | 34.6 mmol, 34.6 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(4-hydroxy-benzyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester | 2.9 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)O)COC(C)=O | C27H29ClO10
